US08729079B2
g: tert-butyl 4-(4-(2-(4-(methoxycarbonyl)phenyl)-5-oxo-5,6-dihydropyrimido[4,5-d]pyridazin-4-ylamino)benzyl)piperazine-1-carboxylate
Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-(4-(methoxycarbonyl)phenyl)pyrimidine-5-carboxylate (0.5 g, 0.82 mmol) was dissolved in ethanol (5 mL), hydrazine hydrate (60 μL, 1.24 mmol) was added and the mixture is refluxed for 2.5 hours. The reaction mixture was cooled to obtain a solid precipitate. The precipitate was filtered and the solid dried under vacuum (0.4 g). 1H NMR (400 MHz, DMSO-d6): δ 13.41 (s, 1H), 11.52 (s, 1H), 8.52 (d, J=8.4 Hz, 2H), 8.34 (s, 1H), 8.13 (d, J=8.8 Hz, 2H), 7.86 (d, J=8.8 Hz, 2H), 7.42 (d, J=8.4 Hz, 2H), 3.90 (s, 3H), 3.51 (s, 2H), 3.29 (t, J=4.4 Hz, 4H), 2.34 (t, J=4.4 Hz, 4H), 1.39 (s, 9H); MS m/z 572.3 (M+1).

reactant | Ethyl 4-(4-((4-(tert-butoxycarbonyl)piperazin-1-yl)methyl)phenylamino)-6-formyl-2-(4-(methoxycarbonyl)phenyl)pyrimidine-5-carboxylate | 0.82 mmol, 0.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC(=NC(=C1C(=O)OCC)C=O)C1=CC=C(C=C1)C(=O)OC | C32H37N5O7
reactant | hydrazine hydrate | 1.24 mmol, 60 μL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | tert-butyl 4-(4-(2-(4-(methoxycarbonyl)phenyl)-5-oxo-5,6-dihydropyrimido[4,5-d]pyridazin-4-ylamino)benzyl)piperazine-1-carboxylate | COC(=O)C1=CC=C(C=C1)C=1N=C(C2=C(C=NNC2=O)N1)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H33N7O5
